US07279481B2
2-[3-(2-Oxo-1-imidazolidinyl)phenyl]ethyl methanesulfonate
1-[3-(2-Hydroxyethyl)phenyl]-2-imidazolidinone was suspended in DMF (4 vol) and heated to 35° C. until a clear solution was obtained. Triethylamine (1 vol) was added dropwise at 30° C. over 15 minutes. The mixture was cooled to 20° C. and methanesulfonyl chloride (0.46 vol) was added 30 mins. The resulting suspension was stirred at 20° C. for 15 minutes. Dichloromethane (10 vol) was added, and the organic layer was washed with brine/water (1:1) (5 vol), and then water (3×5 vol). The organic phase was concentrated to 1 vol, and methanol was added (4 vol), if complete dissolution was not obtained, the mixture was heated to 35° C. in order to dissolve the solid. Methyl-t-butyl ether (10 vol) was added and the suspension was left to stand for 18 hours at room temperature. The suspension was filtered; the filter-cake was washed with methyl-t-butyl ether (2 vol). The solid was dried at 40° C. for 18 hours to give the title compound (70% th).

reactant | 1-[3-(2-Hydroxyethyl)phenyl]-2-imidazolidinone | OCCC=1C=C(C=CC1)N1C(NCC1)=O | C11H14N2O2
reactant | Triethylamine | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | Dichloromethane | ClCCl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | Methyl-t-butyl ether | COC(C)(C)C | C5H12O
product | 2-[3-(2-Oxo-1-imidazolidinyl)phenyl]ethyl methanesulfonate | 70% | CS(=O)(=O)OCCC1=CC(=CC=C1)N1C(NCC1)=O | C12H16N2O4S
